US07939531B2
(1-Methyl-cyclohexyl)-(2-thiophen-2-yl-5H-pyrrolo[2,3-b]pyrazin-7-yl)-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and thiophene-2-boronic acid following general procedures described in these Examples. MP 224-225° C., M+H=326.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | thiophene-2-boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | (1-Methyl-cyclohexyl)-(2-thiophen-2-yl-5H-pyrrolo[2,3-b]pyrazin-7-yl)-methanone | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C=2SC=CC2 | C18H19N3OS
